US03937701
Approximately 500 parts of water is slowly added to a solution of 98 parts of 5-(4-nitroso-1-piperazinyl)-5H-dibenzo[a,d]cycloheptene-10-carbonitrile in 1200 parts of glacial acetic acid. To the resultant mixture is added, at a rate such that the temperature does not exceed 35°, approximately 150 parts of zinc dust. When the addition is complete, the reaction mixture is stirred at 28°-30° for 1 hour, whereupon insoluble solids are filtered out and washed with 300 parts of 65% acetic acid. Washings and filtrate are combined and diluted with 3 volumes of water. The solution thus obtained is cooled to 5°-10° and maintained thereat while sufficient 30% ammonium hydroxide is added to induce alkalinity. The resultant mixture is extracted with chloroform. The chloroform extract is dried over anhydrous potassium carbonate and stripped of solvent by vacuum distillation. The residual viscous oil crystallizes from hexane to give 5-(4-amino-1-piperazinyl)-5H-dibenzo[a,d]cycloheptene-10-carbonitrile as a colorless solid which, dried in air, melts at 137°-146°.

reactant | water | O | H2O
reactant | 5-(4-nitroso-1-piperazinyl)-5H-dibenzo[a,d]cycloheptene-10-carbonitrile | N(=O)N1CCN(CC1)C1C2=C(C(=CC3=C1C=CC=C3)C#N)C=CC=C2 | C20H18N4O
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(4-amino-1-piperazinyl)-5H-dibenzo[a,d]cycloheptene-10-carbonitrile | NN1CCN(CC1)C1C2=C(C(=CC3=C1C=CC=C3)C#N)C=CC=C2 | C20H20N4
